US07223788B2
tert-Butyl 5-chloro-3′,6′-dihydro-2′H-[2,4′]bipyridine-1′-carbamate
A solution of 2-bromo-5-chloropyridine (131 mg) in DMF (degassed with nitrogen; 4.5 ml) was added to a mixture of tert-butyl 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridin-1-carbamate (Eastwood, Paul R., Tetrahedron Lett, 41, 19, 2000, 3705-3708; 200 mg), potassium carbonate (0.265 g) and Pd(dppf)Cl2 (50 mg). The mixture was heated at 80° C. for 8 hours. After cooling, the mixture was diluted with dichloromethane and washed with sodium carbonate solution and water. The organic phase was dried over sodium sulfate, filtered and concentrated. The residue was purified by chromatography (silica gel, mobile phase: heptane/ethyl acetate (2%)/dichloromethane (5%), later heptane/ethyl acetate (5%)/dichloromethane (5%).

reactant | 2-bromo-5-chloropyridine | 131 mg | BrC1=NC=C(C=C1)Cl | C5H3BrClN
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridin-1-carbamate | 200 mg | CC1(OB(OC1(C)C)C=1CCN(CC1)NC(=O)OC(C)(C)C)C | C16H29BN2O4
reactant | potassium carbonate | 0.265 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 4.5 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | Pd(dppf)Cl2 | 50 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-Butyl 5-chloro-3′,6′-dihydro-2′H-[2,4′]bipyridine-1′-carbamate | ClC=1C=CC(=NC1)C=1CCN(CC1)NC(=O)OC(C)(C)C | C15H20ClN3O2
